US08957093B2
Step 2: (S)-4′-((5-(1-(4-Methoxyphenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
To a mixture of (S)-tert-butyl 4′-((5-(1-(4-methoxyphenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylate (58.9 mg, 0.1 mmol) and 2,6-lutidine (0.13 mL, 1.15 mmol) in DCM (1 mL) at 0° C. was added TESOTf (0.17 mL, 0.75 mmol). The reaction mixture was stirred at rt for 2 h. The completion of the reaction was monitored by anal. HPLC. The mixture was evaporated in vacuo to obtain the crude which was purified by prep. HPLC (MeOH/Acetonitrile/water) to obtain the title compound. ESI-MS (m/z): 533 [M+H]+.

reactant | (S)-tert-butyl 4′-((5-(1-(4-methoxyphenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylate | 0.1 mmol, 58.9 mg | COC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C38H40N2O4
reactant | 2,6-lutidine | 1.15 mmol, 0.13 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | TESOTf | 0.75 mmol, 0.17 mL | [Si](CC)(CC)(CC)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-4′-((5-(1-(4-Methoxyphenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | COC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C34H32N2O4
